US08048862B2
Preparation of 2-(4-isopropylthiazol-2-yl)-4-chloro-7-methoxy-8-methyl-quinoline
2-(4-isopropylthiazol-2-yl)-4-hydroxy-7-methoxy-8-methyl-quinoline (4.63 g, 13.6 mmol., 1.0 eq.) was charged into a 100 mL round bottom flask. Phosphorous oxychloride (45 mL) was added and the reaction mixture stirred at 90° C. for 3 hours. Monitoring the reaction mixture by 1H NMR showed full consumption of the starting material. The reaction mixture was left to cool to ambient temperature and the solvent removed under vacuum. The residue was diluted with ethyl acetate (80 mL) and the reaction mixture cooled to 0° C. 2M aqueous sodium hydroxide solution was added portion wise until the pH of the aqueous phase was 14 (stir reaction mixture for 1 min between every NaOH addition). The two layers were separated and the organic layer was further washed with water (50 mL) and brine (50 mL). The organic layer was dried over sodium sulphate, filtered and the solvent removed under vacuum to give 4.11 g (91%) of the title compound as a pale brown solid. 1H NMR (500 MHz, CDCl3) δ ppm 8.28 (s, 1 H), 8.09 (d, J=9.16 Hz, 1 H), 7.38 (d, J=9.16 Hz, 1 H), 7.06 (s, 1 H), 4.02 (s, 3 H), 3.20 (spt, J=6.87 Hz, 1 H), 2.73 (s, 3 H), 1.40 (d, J=6.87 Hz, 6 H).

reactant | 2-(4-isopropylthiazol-2-yl)-4-hydroxy-7-methoxy-8-methyl-quinoline | 13.6 mmol, 4.63 g, 1.0 eq. | C(C)(C)C=1N=C(SC1)C1=NC2=C(C(=CC=C2C(=C1)O)OC)C | C17H18N2O2S
reactant | Phosphorous oxychloride | 45 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | NaOH | [OH-].[Na+]
product | 2-(4-isopropylthiazol-2-yl)-4-chloro-7-methoxy-8-methyl-quinoline | 4.11 g, 91% | C(C)(C)C=1N=C(SC1)C1=NC2=C(C(=CC=C2C(=C1)Cl)OC)C | C17H17ClN2OS
